### PR TITLE
feat: add `Iter.toArray` lemmas

### PR DESCRIPTION
**Pull request by pandaman64**
This PR adds two lemmas related to `Iter.toArray`.

[Zulip discussion](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/Iterator.20Library.3A.20Request.20for.20Feedback/near/530567667)

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 3f19182afc70bfefadd41588b1329136f11d04a7 --onto 73422d52fd61c3d5bce6f5edb53c6bd698b1b7ba`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-07-25 14:41:53)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 3f19182afc70bfefadd41588b1329136f11d04a7 --onto 95e753c6b42900cb727b726646d1f884df87c7db`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-07-28 10:51:05)

File: src/Init/Data/Iterators/Lemmas/Consumers/Collect.lean [hunk 1]
```diff
@@ -144,4 +144,13 @@ theorem Iter.isPlausibleIndirectOutput_of_mem_toListRev
   apply isPlausibleIndirectOutput_of_mem_toList
   simpa [toListRev_eq] using h
 
+theorem Iter.isPlausibleIndirectOutput_of_mem_toArray
+    [Iterator α Id β] [Finite α Id] [IteratorCollect α Id Id] [LawfulIteratorCollect α Id Id]
+    {it : Iter (α := α) β} {b : β} :
+    b ∈ it.toArray → it.IsPlausibleIndirectOutput b := by
+  intro h
+  apply isPlausibleIndirectOutput_of_mem_toList
+  rw [←Array.mem_toList_iff] at h
```
Comment (datokrat) [inline src/Init/Data/Iterators/Lemmas/Consumers/Collect.lean]: Just a small syntactical remark: In the standard library, we usually put a space after  `←` in `simp` calls.

```suggestion
  rw [← Array.mem_toList_iff] at h
```

**Review by datokrat — COMMENTED** [review]
Thanks for adding these lemmas, this is my only remark.

**Comment by datokrat** [comment]
Thanks again!
